US06586617B1
Synthesis of 4′-Chloro-2′-cyano-N-methyl-p-toluenesulfonanilide (Compound No.94)
To a solution of 4′-chloro-2′-carbamoyl-N-methyl-p-toluenesulfonanilide (0.70 g (2.07 mmol)) in pyridine (3.0 ml), under cooling with ice and with stirring, trifluoroacetic anhydride (0.40 ml (2.83 mmol)) was added dropwise. The temperature of the reaction mixture was brought to room temperature and the mixture was stirred at the same temperature for 2 hours. Then, the mixture was poured into water and extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid, water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Diisopropyl ether was added to the residue and crystals separated was filtered and washed to give 0.63 g (95%) of the title compound as white crystals.

reactant | 4′-chloro-2′-carbamoyl-N-methyl-p-toluenesulfonanilide | 2.07 mmol, 0.70 g | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)C(N)=O | C15H15ClN2O3S
reactant | trifluoroacetic anhydride | 2.83 mmol, 0.40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | pyridine | 3.0 ml | N1=CC=CC=C1 | C5H5N
product | 4′-Chloro-2′-cyano-N-methyl-p-toluenesulfonanilide | 0.63 g, 95% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)C#N | C15H13ClN2O2S
